US07504399B2
Triethyl amine (1 ml) was added into a solution of N-Boc piperazine (1 g) and 2-(chloro(phenyl)methylene)malononitrile (1 g) in EtOH (20 ml). After 16 hours at 115° C., the reaction mixture was cooled down and some of desired product, tert-butyl 4-(2,2-dicyano-1-phenylvinyl)piperazine-1-carboxylate, precipitated out from the solution. After filteration, the mother solution was concentrated to offer a residue which was purified using silica gel chromatography to afford more tert-butyl 4-(2,2-dicyano-1-phenylvinyl)piperazine-1-carboxylate. 1H NMR (500 MHz, DMSO-d6) □7.53 (m, 5H), 3.93 (b, 2H), 3.61 (b, 2H), 3.36 (b, 2H), 3.15 (b, 2H), 1.39(s, 9H); 13C NMR(125 MHz, DMSO-d6) □170.9, 153.6, 132.6, 131.7, 129.1, 129.0, 117.4, 116.7, 79.4, 51.5, 50.33, 42.9, 27.9. MS m/z: (M+H)+ calcd for C19H23N4O2 339.18, found 339.17. Retention time 1.46 min (column A).

reactant | Triethyl amine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | N-Boc piperazine | 1 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | 2-(chloro(phenyl)methylene)malononitrile | 1 g | ClC(=C(C#N)C#N)C1=CC=CC=C1 | C10H5ClN2
solvent | EtOH | 20 ml | CCO | C2H6O
product | tert-butyl 4-(2,2-dicyano-1-phenylvinyl)piperazine-1-carboxylate | C(#N)C(=C(C1=CC=CC=C1)N1CCN(CC1)C(=O)OC(C)(C)C)C#N | C19H22N4O2
